US05441975
(b) 2-Dodecyl-α-fluoro-α-phenyl-2H-tetrazole-5-acetic acid, ethyl ester
A solution of 2-dodecyl-α-hydroxy-α-phenyl-2H-tetrazole-5-acetic acid, ethyl ester (0.45 g, 1.08 mmole) in CH2Cl2 (2 mL) was added dropwise to a -78° C. solution of diethyl amino sulfur trifluoride (DAST, J. Org. Chem. 1975;(40):574:578, 0.15 mL, 1.1 mmole) in CH2Cl2 (1 mL) under dry nitrogen. The mixture was stirred for 60 minutes at -78° C. before the cooling bath was removed and the solution allowed to warm to room temperature, where it was stirred an additional 3 hours. The mixture was poured into ice water and extracted with ethyl acetate (2×100 mL). The combined ethyl acetate extracts were washed with brine (50 mL) and dried. Filtration and concentration produced an oil which was flash chromatographed (silica gel, 7:1 hexane-ethyl acetate) to afford 0.3 g (66%) of the title compound as an oil.

reactant | 2-dodecyl-α-hydroxy-α-phenyl-2H-tetrazole-5-acetic acid, ethyl ester | 1.08 mmole, 0.45 g | C(CCCCCCCCCCC)N1N=C(N=N1)C(C(=O)OCC)(C1=CC=CC=C1)O | C23H36N4O3
reactant | diethyl amino sulfur trifluoride | 1.1 mmole, 0.15 mL | C(C)S(N)(CC)(F)(F)F | C4H12F3NS
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-Dodecyl-α-fluoro-α-phenyl-2H-tetrazole-5-acetic acid, ethyl ester | 0.3 g, 66% | C(CCCCCCCCCCC)N1N=C(N=N1)C(C(=O)OCC)(C1=CC=CC=C1)F | C23H35FN4O2
